US06878718B2
(3-Ethoxy-prop-2-ynyl)-benzene
To a solution of ethoxy acetylene (9.95 g of 50% w/w. solution in hexanes, 70 mmol) in THF (100 ml) at −78° was added n-butyl lithium (31 ml of 2.5M solution in hexanes, 78 mmol). The mixture was stirred at this temperature for 2 h. prior to the addition of HMPA (20 ml), stirring was continued for a further 15 min. before the addition of benzyl bromide (9.2 ml). The reaction mixture was allowed to warm to room temperature overnight before partitioning between EtOAc (300 ml) and water (200 ml). The organics were separated, washed with water (5×200 ml), brine (200 ml), dried (Na2SO4), filtered and concentrated in vacuo to give the title compound as a mobile brown oil (11.1 g, 99%). δH (300 MHz, CDCl3) 7.15-7.57 (5H, m), 4.12 (2H, q, J 7.1 Hz), 3.60 (2H, s), 1.41 (3H, t, J 7.1 Hz); m/z (ES+, 70V) MH+161.

reactant | ethoxy acetylene | 70 mmol, 9.95 g | C(C)OC#C | C4H6O
reactant | n-butyl lithium | 78 mmol, 2.5M, 31 ml | C(CCC)[Li]
reactant | HMPA | 20 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | benzyl bromide | 9.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (3-Ethoxy-prop-2-ynyl)-benzene | 11.1 g, 99% | C(C)OC#CCC1=CC=CC=C1 | C11H12O
